US08623889B2
Step 4: 7-(cyclopropanecarboxamido)-3-(5-fluoro-2-methylphenyl)-1-methyl-2,6-naphthyridine 2-oxide
A mixture of 7-chloro-3-(5-fluoro-2-methylphenyl)-1-methyl-2,6-naphthyridine 2-oxide (350 mg, 1.2 mmol), cyclopropanecarboxamide (295 mg, 3.5 mmol), Chloro[2-(dicyclohexylphosphino)-3-,6-dimethoxy-2,4′-6′-tri-1-pr-1,1′-biphenyl)][2-(2-aminoethyl)Ph]Pd(II) (46 mg, 0.06 mmol), (dicyclohexylphosphino)-3-,6-dimethoxy-2,4′-6′-tri-1-pr-1,1′-biphenyl (120 mg, 0.2 mmol), and cesium carbonate (750 mg, 2.3 mmol) in 1,4-dioxane (5 mL) was heated at 90° C. for 4 hours. The cooled reaction mixture was diluted with dichloromethane (200 mL) and methanol (100 mL), mixed with Celite, filtered, the solids washed with 15% methanol/dichloromethane (2×100 mL), and the filtrate was dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 40 g, ISCO, 0-10% methanol in dichloromethane) to afford the title compound as an off-white solid (400 mg, 100%). 1H NMR (400 MHz, DMSO) δ 11.16 (s, 1H), 9.11 (s, 1H), 8.56 (s, 1H), 8.02 (s, 1H), 7.41-7.31 (m, 1H), 7.22 (m, 2H), 2.66 (s, 3H), 2.10 (m, 1H), 2.08 (s, 3H), 0.94-0.81 (m, 4H). LCMS (Method D): RT=11.358 min, M+H+=352.1.

reactant | 7-chloro-3-(5-fluoro-2-methylphenyl)-1-methyl-2,6-naphthyridine 2-oxide | 1.2 mmol, 350 mg | ClC1=NC=C2C=C([N+](=C(C2=C1)C)[O-])C1=C(C=CC(=C1)F)C | C16H12ClFN2O
reactant | cyclopropanecarboxamide | 3.5 mmol, 295 mg | C1(CC1)C(=O)N | C4H7NO
reactant | cesium carbonate | 2.3 mmol, 750 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | methanol | 100 mL | CO | CH4O
product | 7-(cyclopropanecarboxamido)-3-(5-fluoro-2-methylphenyl)-1-methyl-2,6-naphthyridine 2-oxide | 400 mg, 100% | C1(CC1)C(=O)NC1=NC=C2C=C([N+](=C(C2=C1)C)[O-])C1=C(C=CC(=C1)F)C | C20H18FN3O2
